Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Inability to tolerate PO intake
 
Major Surgical or Invasive Procedure:
Endoscopy ___ with dilation of Schatzki ring. 
 
History of Present Illness:
In brief, Ms. ___ is a ___ year old female with history of 
Schatzki Ring s/p balloon dilatation ___ year ago and breast 
cancer s/p left mastectomy in ___ who presents with a 1.5 month 
history of progressively worsening inability to tolerate PO 
intake. Her partner initially noticed that Ms. ___ was 
taking in less food at meals; she would leave solid foods 
partially uneaten, would often take fluids to properly swallow 
her food, and would eat less solid foods after meals due to lack 
of satiety. She does not endorse a feeling of "food getting 
stuck," but does state that she has a feeling of fullness in her 
throat while eating, and has had vomiting recently. Her 
inability to tolerate PO intake has been progressive, and on 
___ she attempted to drink egg nog with great difficulty. She 
endorses weight loss (2 lbs) and intermittent abdominal pain 
both due to poor PO intake ("hunger pains"). She denies fever, 
chills, other abdominal pain, constipation, diarrhea. 

Notably, patient reports history of burning epigastric/chest 
pain primarily at night or when she lays down present for many 
years. She has no history of GERD.

Additionally, patient reports headache for 2.5 months. She 
rarely has headaches at baseline. There is intermittent feeling 
of pressure throughout her head, mild-moderate dull pain, 
relieved with 3 baby aspirin. There is also sharp intermittent 
pain in the left forehead and right maxillary region, ___, 
without exacerbating factors. No weakness, changes in vision, or 
changes in sensation throughout.

Lastly, patient reports pancreatic cyst seen on endoscopy last 
year which she is concerned about. No abdominal pain (other than 
self-reported hunger pains), diarrhea, constipation.
 
Past Medical History:
PAST MEDICAL HISTORY
Emphysema  
Schatzki ring s/p balloon dilation ___
Celiac disease  
Breast cancer s/p L mastectomy ___  
Osteoporosis  
Pancreatic cyst  
s/p cholecystectomy  
L4/L5 "back issue"

ALLERGIES: 
Penicillin (swelling/itching)
 
Social History:
___
Family History:
Brother: throat cancer  
Mother: celiac disease, DM2 
 
Physical Exam:
=============================
ADMISSION PHYSICAL EXAM
=============================
VS - T 97.8  BP 136-147/51-72  HR 58-63  RR 18  O2 96%RA
General: well-appearing, thin woman, NAD
HEENT: anicteric sclerae, EOMI 
Neck: no LAD
CV: normal S1/S2, no murmurs
Lungs: decreased breath sounds throughout, otherwise clear to 
auscultation bilaterally
Abdomen: soft, nondistended, nontender, no hepatosplenomegaly 
appreciated
Ext: warm and well perfused, no edema, pedal pulses present 
bilaterally
Neuro: CN II-XII intact, ___ motor strength throughout, distal 
extremity sensation intact 
Skin: evidence of left mastectomy, mildly prominent nontortuous 
veins in lower extremities present

=============================
DISCHARGE PHYSICAL EXAM
=============================
VS - Tmax 98.6 Tc 97.7 BP 116-137/51-69 HR ___ RR 18 02 96%RA
General: well appearing, NAD
HEENT: MMM, EOMI
Neck: no JVD, no LAD
CV: normal S1 and S2, no murmurs
Lungs: decreased breath sounds throughout, bibasilar coarse 
crackles present, otherwise clear to auscultation bilaterally
Abdomen: soft, nontender, nondistended, no HSM appreciated
GU: deferred
Ext: warm and well perfused, no edema, pedal pulses present 
bilaterally
Neuro: CN II-XII intact, grossly normal
Skin: evidence of left mastectomy, mildly prominent nontortuous 
veins in lower extremities present
 
Pertinent Results:
==================
ADMISSIN LABS
==================
CBC W/ DIFF
___ 06:36PM BLOOD WBC-9.0 RBC-5.15 Hgb-14.6 Hct-45.4* 
MCV-88 MCH-28.3 MCHC-32.2 RDW-13.3 RDWSD-43.5 Plt ___
___ 06:36PM BLOOD Neuts-60.4 ___ Monos-10.8 Eos-1.2 
Baso-0.2 Im ___ AbsNeut-5.41 AbsLymp-2.43 AbsMono-0.97* 
AbsEos-0.11 AbsBaso-0.02

ELECTROLYTES
___ 06:36PM BLOOD Glucose-82 UreaN-18 Creat-1.1 Na-136 
K-6.5* Cl-101 HCO3-24 AnGap-18 *****this specimen was grossly 
hemolyzed*****
___ 09:10PM BLOOD K-3.9 *****non-hemolyzed*****
___ 06:36PM BLOOD Calcium-9.7 Phos-3.8 Mg-2.3

LFTs
___ 06:36PM BLOOD ALT-36 AST-59* AlkPhos-80 TotBili-0.5 
*****grossly hemolyzed*****
___ 06:36PM BLOOD Albumin-4.7

URINALYSIS
___ 09:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

IMAGING/PROCEDURES:
___ EGD:
Patulous esophagus
Schatzki's ring, dilated during EGD
Normal mucosa in the stomach, biopsied
Erosions in the bulb and proximal d2 compatible with duodenal 
erosions, biopsied
Otherwise normal EGD to third part of the duodenum

==================
DISCHARGE LABS
==================
None

=============
MICROBIOLOGY
=============
NONE

================
IMAGING/STUDIES
================
ENDOSCOPY ___ Impression: 
Patulous esophagus
Schatzki's ring (dilation)
Normal mucosa in the stomach (biopsy)
Erosions in the bulb and proximal d2 compatible with duodenal 
erosions (biopsy)
Otherwise normal EGD to third part of the duodenum
Recommendations:Continue per inpatient team recommendations 

Follow up biopsy results
 
Brief Hospital Course:
___ y/o F w/ PMH Schatzki ring s/p EGD w/ dilation in ___, 
Celiac disease presented to the ED w/ 1.5 month history of 
worsening dysphagia and poor PO intake. Patient stated she had 
gagging while swallowing that began with solid foods and 
gradually worsened to also occur with liquids. GI was consulted, 
who performed EGD on ___. EGD found Schatzki ring with 15mm 
lumen that was dilated as well as multiple duodenal ulcers that 
were biopsied. Following the procedure, patient had good PO 
intake and was tolerating mechanical soft diet at discharge. Per 
GI, will follow up dysphagia as outpatient to work up possible 
esophageal dysmotility since Schatski ring with 15mm lumen would 
likely not be severe enough to cause the amount of dysphagia the 
patient was reporting. 

================
ACUTE ISSUES
================

#DYSPHAGIA
Patient presented with progressive dysphagia initially to solids 
and now to thick liquids, concerning for mechanical obstruction. 
EGD performed given history of Schatzki Ring, which revealed 
recurrent Schatzki Ring with 15 mm lumen; balloon dilation was 
performed, with improvement in clinical status. Notably, GI does 
not believe the Ring can account for all of patient's symptoms. 
Other contributing etiologies include GERD, given history of 
untreated reflux symptoms, and functional motility disorder of 
the esophagus. At discharge, she was able to tolerate PO intake. 
Patient began treatment of GERD with PPI as below. Patient will 
follow up with GI as an outpatient. 

#Duodenal ulcers:
EGD for evaluation of dysphagia also revealed duodenal ulcers. 
Biopsies of gastric as well as duodenal mucosa were taken during 
the EGD, and results were pending at discharge. Patient was 
initiated on omeprazole 20mg PO BID per GI recs for duodenal 
ulcers. No history of H. pylori. Patient will follow up biopsy 
results at ___ clinic as an outpatient. 

#HEADACHE
Patient reporting new global pressure-like sensation and brief 
intermittent sharp pains on R and L side of face over the course 
of the last couple months. No previous history of headaches. 
Headaches are relieved with baby aspirin. No changes in vision, 
nausea/vomiting or other neurological symptoms. Headaches were 
felt to most likely be ___ to hypovolemia/poor PO intake given 
association with development of dysphagia vs benign tension 
headache. Headaches resolved with IVF boluses and acetaminophen 
PRN. Patient may follow up with PCP. Recommended good 
hyration/PO intake. 

==================
CHRONIC ISSUES
==================

#EMPHYSEMA
Patient was asymptomatic while hospitalized without episodes of 
dyspnea or O2 desaturation. Continued home albuterol inhaler as 
prescribed. 

#PANCREATIC CYST
No acute issues or related abdominal symptoms during 
hospitalization. We recommend outpatient re-evaluation with CT 
or MRI per PCP.

=========================
TRANSITIONAL ISSUES
=========================
[ ] Continue omeprazole 20mg PO BID.
[ ] GI biopsy results pending on discharge
[ ] Follow up with GI for further evalulation of dysphagia, 
discussion of duodenal ulcer biopsy results. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Vitamin E 400 UNIT PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Multivitamins 1 TAB PO DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: Dysphagia, Schatzki Ring, Duodenal Ulcer

Secondary Diagnoses: Emphysema, Celiac disease, Breast cancer 
s/p L mastectomy in ___, osteoporosis, pancreatic cyst  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___.

Why you were admitted to the hospital:
- You were not eating and drinking well due to difficulty 
swallowing.

What was done while you were in the hospital:
- You were seen by our gastroenterology (GI) team who did an 
endoscopy.
- They dilated your Schatzki ring to make it easier for you to 
swallow. 
- The endoscopy also found some ulcers in your small intestine. 
The GI team took biopsies of these ulcers.
-You were started on a medication called omeprazole to improve 
pain you may be having from these ulcers.  

What you need to do when you go home:
- Please continue to take omeprazole 20mg twice daily.
- Please follow up with your primary ___ doctor on ___ at 
3:00PM.
- You will have a follow up appointment with the 
Gastroenterology department to discuss the results of your ulcer 
biopsies and follow up on your swallowing. You will be called 
with this appointment. 

It was a pleasure taking ___ of you at ___.

___,
Your ___ ___ Team
 
Followup Instructions:
___